US05550258
A mixture of 12.5 ml of ether, 1.0 ml of t-butanol and 3.85 g of triphenylmethylphosphonium bromide was stirred at an ambient temperature, then 1.21 g of potassium t-butoxide was added to the mixture and stirred at an ambient temperature for five hours. Under ice-water cooling, 1.64 g of (RS)-3-(1-methyl-2-propenyl)4-oxocyclopent-2-en-1-ol dissolved in 2.0 ml of ether was added dropwise to the mixed solution and stirred for two hours. The mixture was subsequently stirred at an ambient temperature for six hours. The reaction solution was poured into a saturated aqueous sodium dihydrogen phosphate solution and extracted with ether. The organic layer was washed with a saturated sodium chloride solution, and dried over anhydrous magnesium sulfate. After removal of the solvent under reduced pressure, the obtained oily substance was subjected to silica gel column chromatography to yield 0.20 g of (RS)-3-(1-methyl-2-propenyl)-4-methylidene-cyclopent-2-en-1-ol. Yield 12%

reactant | triphenylmethylphosphonium bromide | 3.85 g | [Br-].C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)[PH3+]
reactant | potassium t-butoxide | 1.21 g | CC(C)([O-])C.[K+]
reactant | (RS)-3-(1-methyl-2-propenyl)4-oxocyclopent-2-en-1-ol | 1.64 g | CC(C=C)C1=CC(CC1=O)O | C9H12O2
reactant | sodium dihydrogen phosphate | P(=O)(O)(O)[O-].[Na+]
solvent | ether | 2.0 ml | CCOCC | C4H10O
solvent | ether | 12.5 ml | CCOCC | C4H10O
solvent | t-butanol | 1.0 ml | C(C)(C)(C)O | C4H10O
product | (RS)-3-(1-methyl-2-propenyl)-4-methylidene-cyclopent-2-en-1-ol | 0.20 g, Yield 12% | CC(C=C)C1=CC(CC1=C)O | C10H14O
